US08455477B2
6-bromo-3-(cyclopropylethynyl)-4-methoxypyrazolo[1,5-a]pyridine (36.0 mg, 0.124 mmol), 1-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoropropyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (95.0 mg, 0.247 mmol), tris(dibenzylideneacetone)dipalladium (11.3 mg, 0.012 mmol), potassium fluoride (38.1 mg, 0.655 mmol), and tri-t-butylphosphonium tetrafluoroborate (7.2 mg, 0.025 mmol) were suspended in 1.3 mL of DMF and sparged with Ar for 10 minutes. The mixture was heated to 100° C. for 1 h, then allowed to cool to ambient temperature. Tetra-n-butylammonium fluoride (247 μl 0.247 mmol, 1M in THF) was added and the mixture was allowed to stir for 30 minutes, then additional tetra-n-butylammonium fluoride (247 μl, 0.247 mmol, 1M in THF) was added and the mixture was stirred for 30 minutes more. The reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA (20-100%). The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to give a yellow solid that was slightly impure. The residue was purified by column chromatography on silica gel (methanol/ethylacetate gradient) to give 3-{4-[3-(cyclopropylethynyl)-4-methoxypyrazolo[1,5-a]pyridin-6-yl]-1H-pyrazol-1-yl}-2-fluoropropan-1-ol. 1H NMR (500 MHz, DMSO-d6) δ 8.63 (s, 1H); 8.36 (s, 1H); 8.09 (s, 1H); 7.94 (s, 1H); 6.92 (s, 1H); 5.15 (t, 1H); 4.78-4.93 (m, 1H); 4.34-4.46 (m, 2H); 3.96 (s, 3H); 3.50-3.72 (m, 2H); 1.48-1.54 (m, 1H); 0.80-0.87 (m, 2H); 0.66-0.70 (m, 2H). LRMS (ESI) calculated for C19H20FN4O2 [M+H]+, 355.1; found 355.0.

reactant | 6-bromo-3-(cyclopropylethynyl)-4-methoxypyrazolo[1,5-a]pyridine | 0.124 mmol, 36.0 mg | BrC=1C=C(C=2N(C1)N=CC2C#CC2CC2)OC | C13H11BrN2O
reactant | 1-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoropropyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.247 mmol, 95.0 mg | [Si](C)(C)(C(C)(C)C)OCC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)F | C18H34BFN2O3Si
reactant | potassium fluoride | 0.655 mmol, 38.1 mg | [F-].[K+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.025 mmol, 7.2 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | Tetra-n-butylammonium fluoride | 0.247 mmol, 1M, 247 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetra-n-butylammonium fluoride | 0.247 mmol, 1M, 247 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 1.3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.012 mmol, 11.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-{4-[3-(cyclopropylethynyl)-4-methoxypyrazolo[1,5-a]pyridin-6-yl]-1H-pyrazol-1-yl}-2-fluoropropan-1-ol | C1(CC1)C#CC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)CC(CO)F)OC | C19H19FN4O2
